US09447091B2
a) 4-Bromo-1-(cyclopropylmethyl)-1H-pyrazole
To a solution of 4-bromo-1H-pyrazole (0.1 g, 0.68 mmol) in DMF (20 ml) were added K2CO3 (0.19 g, 1.36 mmol, 2 eq.) and (bromomethyl)cyclopropane (92 mg, 0.68 mmol, 1 eq.). The mixture was stirred at RT for 4 h. The mixture was quenched and extracted as in Intermediate Example 5(c). The solvent was distilled off to afford the crude product (0.15 g).

reactant | 4-bromo-1H-pyrazole | 0.68 mmol, 0.1 g | BrC=1C=NNC1 | C3H3BrN2
reactant | K2CO3 | 1.36 mmol, 0.19 g, 2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | (bromomethyl)cyclopropane | 0.68 mmol, 92 mg, 1 eq. | BrCC1CC1 | C4H7Br
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-1-(cyclopropylmethyl)-1H-pyrazole | 0.15 g | BrC=1C=NN(C1)CC1CC1 | C7H9BrN2
